US07671043B2
4A. 6-(Methoxy-methyl-carbamoyl)-nicotinic acid methyl ester
A solution of pyridine-2,5-dicarboxylic acid-5-methyl ester (1.0 g, 5.52 mmol), 1,1′-carbonyldiimidazole (0.984 g, 6.07 mmol), 1,2-dichloroethane (30.0 mL) and DMF (8.0 mL) was stirred at room temperature for 1 hour. To the reaction mixture was added N,O-dimethylhydroxylamine hydrochloride (0.535 g, 5.52 mmol) and triethylamine (1.15 mL, 8.28 mmol) and stirred at room temperature for 12 hours. The reaction was diluted with dichloromethane (20.0 mL) and washed with water, 0.5N HCl and saturated NaHCO3, dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound (1.0 g, 81% yield).

reactant | pyridine-2,5-dicarboxylic acid-5-methyl ester | 5.52 mmol, 1.0 g | COC(=O)C=1C=CC(=NC1)C(=O)O | C8H7NO4
reactant | 1,1′-carbonyldiimidazole | 6.07 mmol, 0.984 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.52 mmol, 0.535 g | Cl.CNOC
reactant | triethylamine | 8.28 mmol, 1.15 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | 1,2-dichloroethane | 30.0 mL | ClCCCl | C2H4Cl2
product | 6-(Methoxy-methyl-carbamoyl)-nicotinic acid methyl ester | 1.0 g, 81% yield | COC(C1=CN=C(C=C1)C(N(C)OC)=O)=O | C10H12N2O4
